US04652562
N-(3-Nitro-4-quinolyl)-N'-tetrahydrofurfuryl-guanidine
A solution of 3.86 g (0.02 mole) of tetrahydrofurfuryl guanidine hemisulfate, 0.02 mole of sodium ethylate and 25 ml of ethanol is refluxed for an hour. To the suspension containing tetrahydrofurfuryl guanidine and sodium sulfate 4.16 g (0.02 mole) of 4-chloro-3-nitro-quinoline are added and the reaction mixture is refluxed for a further hour. The reaction mixture is cooled, the precipitated crystals are filtered, washed subsequently with a saturated sodium hydrogen carbonate solution, water, ethanol and chloroform and dried. Thus 4.44 g of the desired compound are obtained, yield 70.5 %, mp.: 210°-212° C.

reactant | tetrahydrofurfuryl guanidine hemisulfate | 0.02 mole, 3.86 g | S(=O)(=O)(O)O.C(C1CCCO1)NC(=N)N.C(C1CCCO1)NC(=N)N
reactant | sodium ethylate | 0.02 mole | CC[O-].[Na+]
reactant | tetrahydrofurfuryl guanidine | C(C1CCCO1)NC(=N)N | C6H13N3O
reactant | sodium sulfate | 0.02 mole, 4.16 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-chloro-3-nitro-quinoline | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | N-(3-Nitro-4-quinolyl)-N'-tetrahydrofurfuryl-guanidine | 4.44 g, yield 70.5 % | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NC(=N)NCC1CCCO1 | C15H17N5O3
